US05143920
Ethyl 8-methoxy-4-(4-hydroxy-2-methylphenylamino)-quinoline-3-carboxylate
Ethyl 8-methoxy-4-chloroquinoline-3-carboxylate (2.6 g, 0.0098 mol) and 4-hydroxy-2-methylaniline (2.4 g, 0.0196 mol) in ethanol (150 ml) were heated under refulx for 30 minutes. The solvent was evaporated under reduced pressure. The residue was dissolved in chloroform and extracted with 2N hydrochloric acid (3×100 ml). On basification of the chloroform extracts, a solid precipitated out, this was collected by filtration and dried. Recrystallisation from dimethylformamide gave the title compound. Yield=2.52 g, m.p. 277°-279° C.

reactant | Ethyl 8-methoxy-4-chloroquinoline-3-carboxylate | 0.0098 mol, 2.6 g | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)Cl | C13H12ClNO3
reactant | 4-hydroxy-2-methylaniline | 0.0196 mol, 2.4 g | OC1=CC(=C(N)C=C1)C | C7H9NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 8-methoxy-4-(4-hydroxy-2-methylphenylamino)-quinoline-3-carboxylate | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)NC1=C(C=C(C=C1)O)C | C20H20N2O4
